US07470699B2
Step 1: Preparation of 4-[6-(2-fluoro-4-phenylsulfanylcarbonimidoyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester
A mixture of 4-[6-(4-cyano-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (TFA salt, 109 mg, 0.21 mmol) and thiophenol (27 μl, 0.21 mmol) in Et2O (1 mL) was stirred in an ice-bath under HBr atmosphere for 30 min. The crude compound was used for the next step without further purification. Exact mass calculated for C27H29FN4O4S 524.19, found 525.3 (MH+).

reactant | 4-[6-(4-cyano-2-fluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.21 mmol, 109 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)C#N)F | C21H23FN4O4
reactant | thiophenol | 0.21 mmol, 27 μl | C1(=CC=CC=C1)S | C6H6S
solvent | Et2O | 1 mL | CCOCC | C4H10O
product | 4-[6-(2-fluoro-4-phenylsulfanylcarbonimidoyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)C(=N)SC1=CC=CC=C1)F | C27H29FN4O4S
